US07468371B2
5,6-dihydroxy-1-indanone
A solution of 5,6-dimethoxy-indan-1-one (6.1 g, 31.7 mmol) in dichloromethane (150 mL) was cooled to about −78° C. and boron tribromide (7.1 mL, 75.1 mmol) was added dropwise. After the addition, the reaction was stirred for about 1 hour while being allowed to warm to room temperature. The mixture was poured into ice water under vigorous stirring. The pink precipitate was collected by filtration, washed with water, and dried under high vacuum to provide the desired product. MS (APCI): m/z 165 (M+H)+.

reactant | 5,6-dimethoxy-indan-1-one | 31.7 mmol, 6.1 g | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | boron tribromide | 75.1 mmol, 7.1 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 5,6-dihydroxy-1-indanone | OC=1C=C2CCC(C2=CC1O)=O | C9H8O3
